US03993658
When equivalent amounts of 5-chloro-4,5,6,7-tetrahydro-1,3-diiminoisoindoline and 2-di-t-butylamino-4-imino-2-thiazoline hydrochloride are substituted for the 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, in the procedure described in Example 9, part B above, there is obtained as the product 1-imino-5-chloro-4,5,6,7-tetrahydro-3-(2-di-t-butylamino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride.

reactant | 5-chloro-4,5,6,7-tetrahydro-1,3-diiminoisoindoline | ClC1CC=2C(NC(C2CC1)=N)=N | C8H10ClN3
reactant | 2-di-t-butylamino-4-imino-2-thiazoline hydrochloride | Cl.C(C)(C)(C)N(C=1SCC(N1)=N)C(C)(C)C
reactant | 1,3-diiminoisoindoline | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-5-chloro-4,5,6,7-tetrahydro-3-(2-di-t-butylamino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride | Cl.N=C1NC(C=2CC(CCC12)Cl)=C1C(N=C(S1)N(C(C)(C)C)C(C)(C)C)=N | InChI=1S/C19H28ClN5S.ClH/c1-18(2,3)25(19(4,5)6)17-24-16(22)14(26-17)13-12-9-10(20)7-8-11(12)15(21)23-13;/h10,22H,7-9H2,1-6H3,(H2,21,23);1H
